US07772285B2
4.00 g of methyl 3-(hydroxymethyl)benzoate was dissolved in 80 mL of methylene chloride, to which 9.47 g of triphenylphosphine was added in small portions in an ice bath followed by addition of 12.00 g of carbon tetrabromide in small portions, and this solution was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure, and the resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=2:1] to yield 5.02 g of methyl 3-(bromomethyl)benzoate as colorless oil.

reactant | methyl 3-(hydroxymethyl)benzoate | 4.00 g | OCC=1C=C(C(=O)OC)C=CC1 | C9H10O3
reactant | triphenylphosphine | 9.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 12.00 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(bromomethyl)benzoate | 5.02 g | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
